US04058550
A solution of 6.36 g. of 4-(n-tridecylamino)benzoic acid in 25 ml. of hexamethylphosphoramide is treated with sodium hydride and the 1-chloro-2,3-propanediol in the manner described in Example 2 to yield 2,3-dihydroxypropyl 4-(n-tridecylamino)benzoate as a white solid.

reactant | 4-(n-tridecylamino)benzoic acid | C(CCCCCCCCCCCC)NC1=CC=C(C(=O)O)C=C1 | C20H33NO2
reactant | sodium hydride | [H-].[Na+]
reactant | 1-chloro-2,3-propanediol | ClCC(CO)O | C3H7ClO2
solvent | hexamethylphosphoramide | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
product | 2,3-dihydroxypropyl 4-(n-tridecylamino)benzoate | C(CCCCCCCCCCCC)NC1=CC=C(C(=O)OCC(CO)O)C=C1 | C23H39NO4
